US04985444
A mixture of 3-(3-cyano-2-oxo-1,2-dihydropyridin-5-yl)-2-phenylpyrazolo[1,5-a]pyridine (0.60 g) and 85% potassium hydroxide (0.38 g) in 67% aqueous ethanol (6 ml) was refluxed for 4 hours. After cooling, the reaction mixture was added onto ice (12 g) and acidified with 5% hydrochloric acid. Precipitates were collected and recrystallized from a mixture of N,N-dimethylformamide and water twice to give 3-(3-carboxy-2-oxo-1,2-dihydropyridin-5-yl)-2-phenylpyrazolo[1,5-a]pyridine (0.36 g).

reactant | 3-(3-cyano-2-oxo-1,2-dihydropyridin-5-yl)-2-phenylpyrazolo[1,5-a]pyridine | 0.60 g | C(#N)C=1C(NC=C(C1)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2)=O | C19H12N4O
reactant | potassium hydroxide | 0.38 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | 6 ml | C(C)O | C2H6O
product | 3-(3-carboxy-2-oxo-1,2-dihydropyridin-5-yl)-2-phenylpyrazolo[1,5-a]pyridine | 0.36 g | C(=O)(O)C=1C(NC=C(C1)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2)=O | C19H13N3O3
